US07855292B2
G. (2R,3R)-3-(3,4-Dichloro-phenyl)-2-methanesulfonyloxy-butyric acid methyl ester
Jones reagent was prepared by mixing chromium (VI) oxide (2.87 g, 28.7 mmol), sulfuric acid (2.44 mL), and water (9.5 mL) for 10 min. The solution was used directly, and was added dropwise to a solution of (2R,3R)-3-(3,4-dichloro-phenyl)-2-methanesulfonyloxy-butan-1-ol (1.50 g, 4.79 mmol) in acetone (100 mL). After 4 h, isopropanol (9 mL) was added and the mixture was concentrated. Water was added, and the aqueous layer was extracted with DCM (3×). The combined organic layers were washed with brine, dried (MgSO4), and concentrated to give the crude acid. To a solution of (2R,3R)-3-(3,4-dichloro-phenyl)-2-methanesulfonyloxy-butyric acid (1.57 g, 4.80 mmol) in DMF (20 mL) were added KHCO3 (1.44 g, 14.4 mmol) and MeI (0.90 mL, 14.4 mmol). After 12 h, the mixture was diluted with water and extracted with EtOAc (2×), and the combined organic phases were washed with brine, dried (MgSO4) and concentrated. The product was purified by flash chromatography to give 1.13 g (69% over 2 steps) of the desired product. 1H NMR (400 MHz, CDCl3): 7.38 (d, J=8.3, 1H), 7.31 (d, J=2.1, 1H), 7.08 (dd, J=8.3, 2.1, 1H), 5.14 (d, J=4.7, 1H), 3.73 (s, 3H), 3.47-3.43 (m, 1H), 3.07 (s, 3H), 1.43 (d, J=7.2, 3H).

reactant | (2R,3R)-3-(3,4-dichloro-phenyl)-2-methanesulfonyloxy-butyric acid | 4.80 mmol, 1.57 g | ClC=1C=C(C=CC1Cl)[C@H]([C@H](C(=O)O)OS(=O)(=O)C)C | C11H12Cl2O5S
reactant | MeI | 14.4 mmol, 0.90 mL | CI | CH3I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (2R,3R)-3-(3,4-Dichloro-phenyl)-2-methanesulfonyloxy-butyric acid methyl ester | COC([C@@H]([C@H](C)C1=CC(=C(C=C1)Cl)Cl)OS(=O)(=O)C)=O | C12H14Cl2O5S
